### PR TITLE
Added strict ordering to Rational

### PR DESCRIPTION
**Pull request by MatthewDaggitt**
The obvious definition actually works now that #756 has been merged in.

### CODE REVIEW

File: src/Data/Rational/Properties.agda [hunk 1]
```diff
@@ -159,8 +174,128 @@ p ≤? q = Dec′.map′ *≤* drop-*≤* ((↥ p ℤ.* ↧ q) ℤ.≤? (↥ q 
...
+  n₁   ℤ.* (sd₃ ℤ.* sd₂) ≡⟨ cong (n₁ ℤ.*_) (ℤ.*-comm sd₃ sd₂) ⟩
+  n₁   ℤ.* (sd₂ ℤ.* sd₃) ≡⟨ sym (ℤ.*-assoc n₁ sd₂ sd₃) ⟩
+  (n₁  ℤ.* sd₂) ℤ.* sd₃  ≤⟨ ℤ.*-monoʳ-≤-pos (ℕ.pred (↧ₙ r)) p≤q ⟩
+  (n₂  ℤ.* sd₁) ℤ.* sd₃  ≡⟨ cong (ℤ._* sd₃) (ℤ.*-comm n₂ sd₁) ⟩
+  (sd₁ ℤ.* n₂)  ℤ.* sd₃  ≡⟨ ℤ.*-assoc sd₁ n₂ sd₃ ⟩
+  sd₁  ℤ.* (n₂  ℤ.* sd₃) <⟨ ℤ.*-monoˡ-<-pos (ℕ.pred (↧ₙ p)) q<r ⟩
+  sd₁  ℤ.* (n₃  ℤ.* sd₂) ≡⟨ sym (ℤ.*-assoc sd₁ n₃ sd₂) ⟩
+  (sd₁ ℤ.* n₃)  ℤ.* sd₂  ≡⟨ cong (ℤ._* sd₂) (ℤ.*-comm sd₁ n₃) ⟩
+  (n₃  ℤ.* sd₁) ℤ.* sd₂  ∎))
+  where open ℤ.≤-Reasoning
```
Comment (MatthewDaggitt) [inline src/Data/Rational/Properties.agda]: `≤-<-trans`, `<-≤-trans` and `≤-trans` all use a lot of similar code. Probably can be simplified.
